US04329347
6-[4-(2-Naphthyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 2-naphthyl-mercaptan and 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril.

reactant | 2-naphthyl-mercaptan | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
product | 6-[4-(2-Naphthyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | C1=C(C=CC2=CC=CC=C12)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C23H23NO2S
